US06875883B2
2,4-Dimethoxybenzoic acid is reacted with hydroxylamine to form 2,4-dimethoxybenzaldoxime. 2,4-Dimethoxybenzaldoxime is reacted with diphosphorus pentoxide to form 2,4-dimethoxybenzonitrile. 2,4-Dimethoxybenzonitrile is reacted with boron trichloride to form 2,4-dihydroxybenzonitrile.

reactant | 2,4-Dimethoxybenzoic acid | COC1=C(C(=O)O)C=CC(=C1)OC | C9H10O4
reactant | hydroxylamine | NO | H3NO
product | 2,4-dimethoxybenzaldoxime | COC1=C(C=NO)C=CC(=C1)OC | C9H11NO3
